US06103910
410 mg (0.79 mmol) (R)-1-[6-[(R)-2-benzyloxycarbonyl-pyrrolidin-1-yl]-6-oxo-hexanoyl]-pyrrolidine-2-carboxylic acid benzyl ester in 100 ml methanol were hydrogenated in the presence of 50 mg 5% Pd on carbon. Filtration and evaporation of the solvent yielded 160 mg (59%) (R)-1-[6-[(R)-2-carboxy-pyrrolidin-1-yl]-6-oxo-hexanoyl]-pyrrolidine-2-carboxylic acid as colorless oil. MS: 339 (M-H)-.

reactant | (R)-1-[6-[(R)-2-benzyloxycarbonyl-pyrrolidin-1-yl]-6-oxo-hexanoyl]-pyrrolidine-2-carboxylic acid benzyl ester | 0.79 mmol, 410 mg | C(C1=CC=CC=C1)OC(=O)[C@@H]1N(CCC1)C(CCCCC(=O)N1[C@H](CCC1)C(=O)OCC1=CC=CC=C1)=O | C30H36N2O6
solvent | methanol | 100 ml | CO | CH4O
catalyst | Pd on carbon | 50 mg | [Pd] | Pd
product | (R)-1-[6-[(R)-2-carboxy-pyrrolidin-1-yl]-6-oxo-hexanoyl]-pyrrolidine-2-carboxylic acid | 160 mg, 59% | C(=O)(O)[C@@H]1N(CCC1)C(CCCCC(=O)N1[C@H](CCC1)C(=O)O)=O | C16H24N2O6
